US08183239B2
{4-[2-Fluoro-4-(4-methyl-pentanoylamino)-phenyl]-piperazin-1-yl}-phenyl-acetic acid methyl ester
A solution of [4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester (35 mg, 0.10 mmol) in DCM (2 mL) was treated with 4-methylvaleroyl chloride (15 mg, 0.11 mmol) followed by TEA (16 μL, 0.11 mmol). After 16 h, the mixture was purified directly by PTLC to give a beige solid (33 mg, 73%). MS (ESI): mass calcd. for C25H32FN3O3, 441.55; m/z found, 442.5 [M+H]+. 1H NMR (CDCl3): 7.46-7.44 (m, 2H), 7.42-7.39 (m, 1H), 7.36-7.32 (m, 3H), 7.05-7.03 (m, 1H), 6.98 (br s, 1H), 6.88-6.84 (m, 1H), 4.06 (s, 1H), 3.70 (s, 3H), 3.10-3.06 (m, 4H), 2.34-2.31 (m, 4H), 2.35-2.31 (m, 2H), 1.62-1.60 (m, 3H), 0.92 (d, J=6.1, 6H).

reactant | [4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester | 0.10 mmol, 35 mg | COC(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)N)F)=O | C19H22FN3O2
reactant | 4-methylvaleroyl chloride | 0.11 mmol, 15 mg | CC(CCC(=O)Cl)C | C6H11ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | {4-[2-Fluoro-4-(4-methyl-pentanoylamino)-phenyl]-piperazin-1-yl}-phenyl-acetic acid methyl ester | 33 mg, 73% | COC(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)NC(CCC(C)C)=O)F)=O | C25H32FN3O3
